Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Aortic stenosis s/p balloon valvuloplasty
 
Major Surgical or Invasive Procedure:
___ - Aortic valve balloon valvuloplasty
___ - Pericardiocentesis and pericardial drain placement.
 
History of Present Illness:
___ aortic stenosis presented for aortic valve balloon 
valvuloplasty, which was complicated by hypotension ___ 
tamponade in the setting of temporary RV pacing lead placement 
and complicated by right femoral artery thrombus and right 
femoral artery dissection. The patient was emergently intubated 
in the catheterization suite for airway protection. 

Upon arrival to the floor, the patient was promptly extubated. 
There was an initial concern that she experienced CVA based on 
an unreactive R pupil and left lower extremity which did not 
respond to commands. Neurology Stroke team were paged to review 
what were apparently new findings; however, upon review with the 
Stroke Fellow who had evaluated the patient in the 
catheterization suite, no new deficits were noted. The patient 
underwent NCHCT which confirmed the absence of acute 
intracranial hemorrhage. 
 
Past Medical History:
(Per OMR, unable to confirm with the patient)
1. CARDIAC RISK FACTORS: (unk) Diabetes, (unk) Dyslipidemia,  
(unk) Hypertension  
2. CARDIAC HISTORY:  
-PERCUTANEOUS CORONARY INTERVENTIONS:  
-PACING/ICD:  Sick sinus syndrome s/p DDD pacemaker
3. OTHER PAST MEDICAL HISTORY:
Mitral annular calcification with mild mitral stenosis and
mild mitral regurgitation
Hypothyroidism
Glaucoma
Urinary incontinence
Post-herpetic neuralgia for past ___ years
Anemia of chronic disease
Mild dementia
Hip fracture, compression fracture in spine
 
Social History:
___
Family History:
(Per OMR, unable to acutely obtain)
Premature coronary artery disease- mother died at
age ___ of an MI; father died at ___ of asthma and an MI.
Race:Caucasian

 
Physical Exam:
ADMISSION PHYSICAL
General: Intubated, sedated.
CV: Distant. S1, S2.   
Lungs: CTAB throughout anterior fields.  
Abdomen: Soft, NT. Distended.
GU: Foley in place.
Ext: WWP. 1+ pulses bilaterally. No clubbing. Mild pitting edema 
bilaterally. 
Neuro: R pupil 6mm and unreactive.

DISCHARGE PHYSICAL
VS:
Tmax/Tcurrent: 98.___ HR: 96-109 RR: 20 BP: 91-118/55-60 O2 
sat:95% RA 
I/O:
24hr: 824/200+ 
8hr
Weight: 55.2
Tele: AF, rate 90-110
.
Exam:
General: alert, sitting in bed eating breakfast, NAD
HEENT: no JVD noted sitting up. Upper airway congestion.  
CV: irreg irreg, tachy
Resp: Dec BS at bases, clear through upper lobes. Upper airwary 
congestion that is cleared with coughing and suctioning 
oropharynx 
ABD: protuberant, pos BS, no TTP
Extr: feet warm, no edema. PICC line in right upper arm, 
dressing changed today. 
Neuro: mild left facial droop noted, speech clear, MAE, right 
strengh > Left. Oriented to place, time but unclear on events
 
Pertinent Results:
ADMISSION RESULTS:
--------------------
___ 07:00PM BLOOD WBC-11.2*# RBC-2.48*# Hgb-7.1*# 
Hct-23.9*# MCV-96 MCH-28.8 MCHC-29.9* RDW-14.8 Plt ___
___ 07:00PM BLOOD Glucose-103* UreaN-20 Creat-0.9 Na-149* 
K-3.8 Cl-115* HCO3-24 AnGap-14
___ 07:00PM BLOOD ALT-23 AST-38 LD(LDH)-285* AlkPhos-39 
TotBili-0.2
___ 12:50AM BLOOD ALT-22 AST-34 LD(___)-283* AlkPhos-36 
TotBili-0.3
___ 05:30AM BLOOD LD(___)-345*
___ 07:00PM BLOOD Calcium-8.2* Phos-2.7 Mg-1.9
___ 05:30AM BLOOD TSH-5.3*
.
CXR ___:
REASON FOR EXAMINATION:  Evaluation of the patient with history 
of aspiration and increased cough. 
  Portable AP radiograph of the chest was reviewed in comparison 
to ___. 
Heart size and mediastinum are stable.  Bibasilar opacities are 
redemonstrated, overall unchanged in severity, although slightly 
shifted in distribution.  Bilateral pleural effusions are 
present, most likely moderate.  There is no evidence of 
pneumothorax.  There is no evidence of appreciable pulmonary 
edema. 
.
ECHO ___: The aortic valve leaflets are severely 
thickened/deformed. Significant aortic stenosis is present (not 
quantified). The mitral valve leaflets are moderately thickened. 
There is a trivial/physiologic pericardial effusion. Aortic 
gradient 34
IMPRESSION: Trivial pericardial effusion without 
echocardiographic evidence of tamponade. 
.
Non contrast Head CT ___:
There is no evidence of intracranial hemorrhage, cerebral edema, 
mass, mass effect or acute vascular territorial infarction.  
Prominent ventricles and sulci suggest age-related global 
atrophy.  Periventricular white matter hypodensities are 
consistent with sequelae of chronic small vessel ischemic 
disease.  A small right retrocerebellar arachnoid cyst is again 
noted (3:8).  
The basal cisterns are patent, and there is preservation of gray 
white matter differentiation.   No fracture is identified.  The 
visualized paranasal sinuses, mastoid air cells, and middle ear 
cavities are clear.  There is evidence of prior bilateral ocular 
lens surgery.    
IMPRESSION:  
No acute intracranial abnormality; specifically, there is no 
evidence of acute ischemia. However, CT may be quite 
insensitive, particularly in the setting of sequelae of chronic 
small vessel ischemic disease.
.
Abd and pelvic CT ___:
IMPRESSION: 
1.  No findings to suggest retroperitoneal hemorrhage.   
2.  Small bilateral pleural effusions.  Enlarged right atrium. 
3.  Multiple vertebral body compression fractures and previous 
kyphoplasty.  
Right sacral kyphoplasty.  Old right inferior and superior pubic 
rami 
fractures.  Right total hip arthroplasty.   
4.  Moderate to large sized hiatal hernia. 
5.  Moderate to severe atherosclerotic disease as described 
above. 
.
Discharge Labs:

___ 05:05AM BLOOD WBC-7.7 RBC-3.27* Hgb-9.5* Hct-30.6* 
MCV-94 MCH-29.0 MCHC-31.0 RDW-15.0 Plt ___
___ 05:05AM BLOOD Glucose-108* UreaN-22* Creat-1.1 Na-149* 
K-4.0 Cl-108 HCO3-34* AnGap-11
___ 05:05AM BLOOD Calcium-9.1 Phos-3.6 Mg-2.___ aortic stenosis s/p balloon valvuloplasty complicated by 
hypotension ___ tamponade in the setting of temporary RV pacing 
lead placement and complicated by right femoral artery thrombus.

-----------------
ACTIVE ISSUES:

# AORTIC STENOSIS S/P BALLOON VALVULOPLASTY c/b Probable 
watershed CVA and hemopericardium and right SFA thrombosis s/p 
angioplasty: Valve area and mean gradient significantly improved 
post-procedure. Mean gradient 21. After the valvuloplasty the 
patient developed hypotension in the holding area and an urgent 
echocardiogram was done demonstrating probable hemopericardium. 
Clinically she was in tamponade with hypotension. In the context 
of this she developed left sided weakness with left facial 
droop. She was intubated and brought back to the cath lab where 
the pericardium was emeergently drained with improvemnt in 
hemodynamcis. RV rupture and hemopericardium was assumed to be 
from placement of the temporary RV pacing wire. A groin shot was 
done prior to ending the procedure showing occlusion of the 
right SFA thought to be from in situ thrombosis while holding 
manual pressure after the sheaths were removed from the BAV. 
This was treated with angioplasty and she was started on 
heparin. She required pressors transiently for hypotension. 
Multiple repeat noncontrast cross-sectional head imaging did not 
show evidence of acute hemorrhagic event. Neurology following 
patient during hospital stay and thought it was likely a 
watershed event. She is severely deconditioned and will need 
intense therapy to return to assisted living apt. She has a 
positive attitude and is eager to increase activity. Patient 
required some gentle diuresis after her valvuloplasty 

# CARDIAC TAMPONADE: Hypotension resolved with 
pericardiocentesis and placement of pericardial drain. Repeat 
ECHO did not show any evidence of reoccurance and the 
pericardial drain was pulled. 

# HYPERNATREMIA: Due to hypovolemia, corrected with D5W at less 
than 6mEq/dL per 24 hours. Na still slightly high but furosemide 
dec to 20 BID today. 
 
# RIGHT FEMORAL ARTERY THROMBUS AND RIGHT FEMORAL ARTERY 
DISSECTION: Prior to concluding the BAV a groin shot was 
performed showing occlusion of the right SFA presumably from 
acute thromus, now resolved. Currently on warfarin. 

# PAROXYSMAL ATRIAL FIBRILLATION with RVR: Patient developed 
atrial fibrillation during her hospitalization. She was started 
on amiodarone and we have increased her beta blocker to 150 mg 
daily. She will need one more week of TID amiodarone, then 
decrease to once daily at 200 mg. She is being bridged with 
heparin IV and warfarin started at 2mg daily. This is a new 
medicine so unclear what ideal dose will be from her but initial 
dose is low because of amiodarone interaction. Cont heparin gtt 
until INR > 2.0 for 24 hours.

-----------
CHRONIC ISSUES:

# HYPOTHYROIDISM: STABLE.
Continued home levothyroxine. Dose of levothyroxine was 
increased from 50 mcg to 75 mcg in ___. 

# PAIN: STABLE. Continued home gabapentin.

# ANXIETY: STABLE. Holding trazadone and lorazepam post stroke 
and is doing well off these medicines. She has been mildly 
delerious off and on during her hospital stay but has no 
agitation and is cooperative and pleasant. 

# IRON DEFICIENCY: Restarted home Fe. 

# Glaucoma:
 Continued home eye medications. Please confirm type and dosage 
with home bottles if possible. 

-----------
TRANSITIONAL ISSUES:

# Amiodarone: started for afib w/ RVR and low BP's. No prior 
history of afib we are aware of. In 1 month post-d/c, if no 
longer having afib, could consider stopping amiodarone. Decrease 
metoprolol as amiodarone loads to prevent bradycardia. 

# Consider video swallow if cont to have couging and food 
retention with curent diet. 

#Neurological Event: Patient to follow-up with PCP for further 
evaluation of watershed event vs CVA in setting of 
valvuloplasty. Patient discharged on warfarin and aspirin. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Durezol (difluprednate) 0.05 % ophthalmic DAILY 
2. Furosemide 40 mg PO BID 
3. Gabapentin 300 mg PO TID 
4. levocetirizine 5 mg oral QD 
5. Levothyroxine Sodium 75 mcg PO DAILY 
6. Lorazepam 1 mg PO HS 
7. Metoprolol Tartrate 25 mg PO BID 
8. Potassium Chloride 20 mEq PO DAILY 
9. Tolterodine 4 mg PO DAILY 
10. travoprost 0.004 % ophthalmic DAILY 
11. Valsartan 160 mg PO DAILY 
12. Aspirin 81 mg PO DAILY 
13. Calcium Carbonate 1000 mg PO DAILY 
14. Vitamin D 8000 UNIT PO DAILY 
15. Ferrous Sulfate 325 mg PO DAILY 
16. Polyethylene Glycol 17 g PO DAILY 
17. ipratropium-albuterol 0.5 mg-3 mg(2.5 mg base)/3 mL 
inhalation QID:PRN dyspnea 
18. Nevanac (nepafenac) 0.1 % ophthalmic BID 
19. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES BID 
20. TraZODone 50 mg PO HS:PRN insomnia 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Calcium Carbonate 1000 mg PO DAILY 
3. Durezol (difluprednate) 0.05 % ophthalmic DAILY 
4. Ferrous Sulfate 325 mg PO DAILY 
5. Gabapentin 300 mg PO TID 
6. Levothyroxine Sodium 75 mcg PO DAILY 
7. Nevanac (nepafenac) 0.1 % ophthalmic BID 
8. Polyethylene Glycol 17 g PO DAILY 
9. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES BID 
10. Tolterodine 4 mg PO DAILY 
11. travoprost 0.004 % ophthalmic DAILY 
12. Valsartan 160 mg PO DAILY 
13. Vitamin D 8000 UNIT PO DAILY 
14. Amiodarone 200 mg PO TID Duration: 7 Days 
Decrease to 200 mg daily on ___. Docusate Sodium (Liquid) 100 mg PO BID 
16. Lidocaine 5% Patch 1 PTCH TD DAILY 
17. Metoprolol Succinate XL 150 mg PO DAILY 
Hold SBP < 100. Decrease dose of metoprolol once amiodarone 
starts to work. Goal HR 80 
18. Senna 1 TAB PO BID:PRN Constipation 
19. Warfarin 2 mg PO DAILY16 
20. ipratropium-albuterol 0.5 mg-3 mg(2.5 mg base)/3 mL 
inhalation QID:PRN dyspnea 
21. levocetirizine 5 mg oral QD 
22. Potassium Chloride 20 mEq PO DAILY 
Hold for K > 5.0 
23. Pravastatin 20 mg PO DAILY 
24. Furosemide 20 mg PO BID 
25. Heparin IV per Weight-Based Dosing Guidelines
Initial Bolus: 4000 units IVP
Initial Infusion Rate: 900 units/hr
Target PTT: 60 - 100 seconds

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Watershed stroke
Aortic stenosis s/p valvuloplasty
Pericardial effusion
Hypoxic respiratory failure
Right femoral throbus
New atrial fibrillation with rapid ventricular response

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
It was a pleasure taking care of you at ___.
You were admitted for a valvuloplasty to open the aortic valve. 
This procedure was effective but you have a perforation of the 
right venricle that led to some bleeding in your pericardial 
space. A drain was placed to drain the blood out and it has not 
reaccumulated. You needed to be on a breathing machine and have 
medicine to keep your blood pressure up. 
A clot was found in your right femoral artery and you have been 
started on blood thinners to help dissolve the clot. At the same 
time, you had a mild stroke that has left some left sided 
weakness that will hopefully improve with time and therapy. 
The monitor showed that you are in an irregular rhythm called 
atrial fibrillation. We have controlled the heart rate with 
medicines and have started warfarin, a blood thinner, to prevent 
another stroke. 
 
Followup Instructions:
___